US05166357
(±)5-(2-Chloromethyl-1,3-oxazol-5-yl )-1-azabicyclo [3.2.1]octane hydrochloride (D25)
A solution of (±)5-(2-hydroxymethyl-1,3-oxazol-5-yl)-1-azabicyclo[3.2.1]octane (E10) (0.3g, 1.4 mmol) in absolute chloroform (10 ml) under nitrogen, cooled in ice was treated with thionyl chloride (0.31 ml, 4.3 mmole) over 5 minutes. The reaction was allowed to warm up to room temperature over 45 minutes. Evaporation of solvent in vacuo afforded the title compound (D25) as a brown solid (380 mg, 100%) which was used without purification.

reactant | (±)5-(2-hydroxymethyl-1,3-oxazol-5-yl)-1-azabicyclo[3.2.1]octane | 1.4 mmol, 0.3g | OCC=1OC(=CN1)C12CCCN(CC1)C2 | C11H16N2O2
reactant | thionyl chloride | 4.3 mmole, 0.31 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)5-(2-Chloromethyl-1,3-oxazol-5-yl )-1-azabicyclo [3.2.1]octane hydrochloride | Cl.ClCC=1OC(=CN1)C12CCCN(CC1)C2 | InChI=1S/C11H15ClN2O.ClH/c12-6-10-13-7-9(15-10)11-2-1-4-14(8-11)5-3-11;/h7H,1-6,8H2;1H
